US07071175B1
A solution of KOH (0.19 g, 3.43 mmol) in ethanol (5 mL) was added to a solution of 2-(2-tert-butoxycarbonylamino-pyridin4-ylmethyl)-malonic acid diethyl ester (1.20 g, 3.27 mmol) in ethanol (5 mL) and methylene chloride (5 mL) at 0° C. The mixture was stirred for 18 h at room temperature. The mixture was concentrated under reduced pressure and water was added to the residue. The aqueous layer was washed with diethyl ether, acidified to pH 4 by 1M HCl, and extracted with methylene chloride. The organic layer was washed with water, brine and dried. After filtration and evaporation in vacuo, the crude product was purified by flash chromatography (CH3OH/CH2Cl2, 1:20) to yield 2-(2-tert-butoxycarbonylamino-pyridin4-ylmethyl)-malonic acid monoethyl ester (0.90 g, 81%).

reactant | KOH | 3.43 mmol, 0.19 g | [OH-].[K+]
reactant | 2-(2-tert-butoxycarbonylamino-pyridin4-ylmethyl)-malonic acid diethyl ester | 3.27 mmol, 1.20 g | C(C)OC(C(C(=O)OCC)CC1=CC(=NC=C1)NC(=O)OC(C)(C)C)=O | C18H26N2O6
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-tert-butoxycarbonylamino-pyridin4-ylmethyl)-malonic acid monoethyl ester | 0.90 g, 81% | C(C)OC(C(C(=O)O)CC1=CC(=NC=C1)NC(=O)OC(C)(C)C)=O | C16H22N2O6
